US04093726
1-(5,6-Dimethoxy-1-methyl-2-benzimidazolyl)-4-(2-furoyl) piperazine hydrochloride
3.50 g. 2-chloro. 5,6-dimethoxy-1-methyl benzimidazole [(J. Org. Chem. USSR 1 1466), (1965)] 7.00 g N-(2-furoyl) piperazine, and 25 ml 2-methoxyethanol were reacted as described in Example I. The product was converted to its hydrochloride by dissolving in isopropyl alcohol and acidifying with a solution of HCl gas in isopropyl alcohol. Yield: 3.99 g product, mp 212°-215° C decomp.

reactant | 5,6-dimethoxy-1-methyl benzimidazole | 7.00 g | COC1=CC2=C(N(C=N2)C)C=C1OC | C10H12N2O2
reactant | N-(2-furoyl) piperazine | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
reactant | 2-methoxyethanol | 25 ml | COCCO | C3H8O2
reactant | hydrochloride | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-(5,6-Dimethoxy-1-methyl-2-benzimidazolyl)-4-(2-furoyl) piperazine hydrochloride | Cl.COC1=CC2=C(N(C(=N2)N2CCN(CC2)C(=O)C=2OC=CC2)C)C=C1OC | InChI=1S/C19H22N4O4.ClH/c1-21-14-12-17(26-3)16(25-2)11-13(14)20-19(21)23-8-6-22(7-9-23)18(24)15-5-4-10-27-15;/h4-5,10-12H,6-9H2,1-3H3;1H
